US04009205
A mixture of 7g of 4-(N-p-toluenesulfonyl)amino-3-methyl-N-ethylaniline, 4g of β-methanesulfonamidoethyl chloride, 2.1g of sodium hydrogen carbonate, 16g of water and 30ml of methanol were refluxed for 5 hours, and then 16g of sulfuric acid were added thereto and the entire reaction system was again refluxed. Next, the reaction solution was condensed to half the original volume and 300ml of isopropyl alcohol were added thereto to separate crystals. The crystals were filtered out and dried to obtain 1.5g of 4-amino-3-methyl-N-(β-methanesulfonamidoethyl)-N-ethylaniline. sesquisulfate. H2O.

reactant | 4-(N-p-toluenesulfonyl)amino-3-methyl-N-ethylaniline | C1(=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(NCC)C=C1)C)C | C16H20N2O2S
reactant | β-methanesulfonamidoethyl chloride | CS(=O)(=O)NCCCl | C3H8ClNO2S
reactant | sodium hydrogen carbonate | 2.1g | C(O)([O-])=O.[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | isopropyl alcohol | 300ml | C(C)(C)O | C3H8O
solvent | methanol | 30ml | CO | CH4O
solvent | water | O | H2O
product | 4-amino-3-methyl-N-(β-methanesulfonamidoethyl)-N-ethylaniline | 1.5g | NC1=C(C=C(N(CC)CCNS(=O)(=O)C)C=C1)C | C12H21N3O2S
